US09126998B2
2,6-Dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylic acid
2.25 g (7.4 mmol) of ethyl 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylate Example 251A were initially charged in 157 ml of THF/methanol 5:1, 37 ml (37 mmol) of 1 N lithium hydroxide solution were added and the reaction mixture stirred at RT over the weekend. The mixture was then cooled to 0° C., acidified to pH 4 with 6 N hydrochloric acid and freed from the organic solvent under reduced pressure. The precipitated solid was filtered off, washed with water and dried under high vacuum. This gave 1.64 g (80% of theory; purity 100%) of the title compound.

reactant | ethyl 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylate | 7.4 mmol, 2.25 g | CC=1N=C2N(C=C(C=C2OCCC(C)C)C)C1C(=O)OCC | C17H24N2O3
reactant | lithium hydroxide | 37 mmol, 1 N, 37 ml | [OH-].[Li+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | THF methanol | 157 ml | C1CCOC1.CO
product | 2,6-Dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylic acid | CC=1N=C2N(C=C(C=C2OCCC(C)C)C)C1C(=O)O | C15H20N2O3
